US04305943
The following procedure describes the preparation of the entitled compound by reacting hydrazine with 6-(4-pyridinyl)-3(2H)-pyridazinone, the tautomeric form of 6-(4-pyridinyl)-3-pyridazinol. A mixture containing 10 g. of 6-(4-pyridinyl)-3(2H)-pyridazinone and 70 ml. of hydrazine hydrate was heated on a steam bath for 3 days and the excess hydrazine distilled off in vacuo. The remaining residue was heated with about 300 ml. of methanol and the solid was collected by filtration. The solid was combined with the corresponding solid obtained from another run starting with 15.7 g. of 6-(4-pyridinyl)-3(2H)-pyridazinone and 21 ml. of hydrazine hydrate and the combined solids were dissolved in aqueous potassium carbonate solution and reprecipitated by addition of acetic acid. The precipitate was dried for 9 hours at 40° C. over P2O5 and then overnight at 80° C. After its NMR spectrum had shown the solid still to contain acetic acid, it was next dried in a vacuum oven at 80° C. for 2 days to yield 18.2 g. (69% yield) of 4-amino-6-(4-pyridinyl)-3(2H)-pyridazinone, m.p. >300° C.

reactant | hydrazine | NN | H4N2
reactant | 6-(4-pyridinyl)-3(2H)-pyridazinone | N1=CC=C(C=C1)C=1C=CC(NN1)=O | C9H7N3O
reactant | 6-(4-pyridinyl)-3-pyridazinol | N1=CC=C(C=C1)C1=CC=C(N=N1)O | C9H7N3O
reactant | hydrazine hydrate | O.NN
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-amino-6-(4-pyridinyl)-3(2H)-pyridazinone | 69% yield | NC=1C(NN=C(C1)C1=CC=NC=C1)=O | C9H8N4O
